US05563113
Preparation of diethyl-(allyloxy)pyrrolo[3,2-b]pyridine-5,6-dicarboxylate
Diethyl 1-hydroxypyrrolo[3,2-b]pyridine-5,6-dicarboxylate (6.2 g, 0.022 mol)is dissolved in (200 mL) dry tetrahydrofuran and cooled to 0° C. under nitrogen. Sodium hydride (0.77 g, 0.033 mol) is added in portions over ten minutes and the reaction is stirred for 30 minutes at 0° C. Allyl bromide (2.01 mL, 0.024 mol) is added all at once to the suspension and the mixture allowed to warm to room temperature and then stirred for 16 hours. The mixture is filtered and the filtrate concentrated in vacuo. The resulting oil is chromatographed using 4:1 hexanes/ethyl acetate and then increasing the polarity to 2:1 hexanes/ethyl acetate to give the product as a yellow oil in 89% yield.

reactant | Diethyl 1-hydroxypyrrolo[3,2-b]pyridine-5,6-dicarboxylate | 0.022 mol, 6.2 g | ON1C=CC2=NC(=C(C=C21)C(=O)OCC)C(=O)OCC | C13H14N2O5
reactant | Sodium hydride | 0.033 mol, 0.77 g | [H-].[Na+]
reactant | Allyl bromide | 0.024 mol, 2.01 mL | C(C=C)Br | C3H5Br
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | diethyl-(allyloxy)pyrrolo[3,2-b]pyridine-5,6-dicarboxylate | 89% yield | C(C)OC(=O)C1=C(C=C2C(N1)=CC(=N2)OCC=C)C(=O)OCC | C16H18N2O5
